US04281000
7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 1.0 g. of 7-(3-pyridyl)pyrazolo[1,5-a]-pyrimidine-3-carboxamide and 5 ml. of phosphorus oxychloride is heated at reflux temperature for 3 hours. The mixture is concentrated to dryness in vacuo. The residue is dissolved in dichloromethane and washed with a saturated solution of sodium bicarbonate. The dichloromethane solution is dried over magnesium sulfate and passed through a column of hydrous magnesium silicate. The eluent is concentrated and diluted with hexane to give the product of the example as crystals, m.p. 258°-260° C.

reactant | 7-(3-pyridyl)pyrazolo[1,5-a]-pyrimidine-3-carboxamide | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)N | C12H9N5O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N | C12H7N5
